US08563577B2
A mixture of 2-bromo-2-(4-fluorophenyl)acetic acid (500 mg, 2.15 mmol) and 3-fluoroaniline (477 mg, 4.29 mmol) in acetonitrile (8 ml) was heated under microwave irradiation at 100° C. for 50 minutes. Then 3-fluoroaniline (238 mg, 2.15 mmol) was added again, and the reaction mixture was heated at 120° C. for 45 minutes in a microwave oven (UPLC-MS monitoring: complete conversion). The organic solution was diluted with EtOAc and was washed with 2N HCl and then with brine. The organic phase was dried over Na2SO4, filtered and the solvent was evaporated to give 2-(4-fluorophenyl)-2-(3-fluorophenylamino)acetic acid (510 mg, 90% yield).

reactant | 2-bromo-2-(4-fluorophenyl)acetic acid | 2.15 mmol, 500 mg | BrC(C(=O)O)C1=CC=C(C=C1)F | C8H6BrFO2
reactant | 3-fluoroaniline | 4.29 mmol, 477 mg | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 3-fluoroaniline | 2.15 mmol, 238 mg | FC=1C=C(N)C=CC1 | C6H6FN
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-fluorophenyl)-2-(3-fluorophenylamino)acetic acid | 510 mg, 90% yield | FC1=CC=C(C=C1)C(C(=O)O)NC1=CC(=CC=C1)F | C14H11F2NO2
